US07253285B2
To a solution of 6-bromo-4-chloro-quinoline (1.5 g, 6.18 mmol) in DMF (60 mL) was added sodium thioethoxide (624 mg, 7.42 mmol) at 0° C. After addition, it was turned to a dark green solution which then turned to a yellow cloudy solution after 15 h at room temperature. Then, the mixture was diluted with water and extracted with ethyl acetate (3×50 mL). The combined extracts were washed with brine solution and dried over anhydrous magnesium sulfate. After filtration of the drying agent, the filtrate was removed under the vacuum and the residue was purified by using a Biotage silica gel column chromatography to afford 1.48 g (89.6% yield) of 6-bromo-4-ethylsulfanyl-quinoline as an yellow solid: EI-HRMS m/e calcd for C11H10BrNS (M+) 266.9717, found 266.9715.

reactant | 6-bromo-4-chloro-quinoline | 6.18 mmol, 1.5 g | BrC=1C=C2C(=CC=NC2=CC1)Cl | C9H5BrClN
reactant | sodium thioethoxide | 7.42 mmol, 624 mg | [S-]CC.[Na+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-bromo-4-ethylsulfanyl-quinoline | 1.48 g, 89.6% yield | BrC=1C=C2C(=CC=NC2=CC1)SCC | C11H10BrNS
